US04371536
1 mmole of 6-amino-β-carbolin-3-carboxylic acid ethyl ester is diazotized at 0° C. in 2 ml of 24% aqueous hydrobromic acid with 1 mmole of sodium nitrite in 1 ml of water. This mixture is added dropwise to a solution of 40 mg of copper (I) bromide in 1 ml of 48% aqueous hydrobromic acid at room temperature. After addition is complete, the mixture is heated to 80° C. The temperature is increased to 100° C. until nitrogen evolution has ceased. 10 ml of water is then added and filtration with suction is carried out. The residue is stirred with ammonia and filtered with suction. It is then extracted by boiling with ethanol and concentrated by evaporation. By chromatography on silica gel with an eluant comprising 9 parts of chloroform and 1 part of ethanol, 6-bromo-β-carbolin-3-carboxylic acid ethyl ester of melting point 308°-313° C. is obtained in 35% yield.

reactant | 6-amino-β-carbolin-3-carboxylic acid ethyl ester | 1 mmole | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N | C14H13N3O2
reactant | sodium nitrite | 1 mmole | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 2 ml | Br | BrH
reactant | hydrobromic acid | 1 ml | Br | BrH
solvent | water | 1 ml | O | H2O
catalyst | copper (I) bromide | 40 mg | [Cu]Br
solvent | water | 10 ml | O | H2O
product | 6-bromo-β-carbolin-3-carboxylic acid ethyl ester | 35% yield | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)Br | C14H11BrN2O2
